US04244731
500 Milligrams of benzyltriethyl ammonium chloride and 13.4 g of 2,6-dimethylphenoxyacetamide was added to a heterogeneously mixed solution of 182 ml of chloroform and 60 g of 50% sodium hydroxide aqueous solution, and the solution was stirred vigorously at room temperature for two hours. After completion of reaction, the chloroform phase was separated, and the reaction solution was washed with water, dried over anhydrous magnesium sulfate, and freed from the solvent to obtain an oily substance. The distillation under reduced pressure of the reaction mixture gave 9.7 g of a distillate, 2,6-dimethylphenoxyacetonitrile, b.p. 86°-88° C./0.6 mmHg.

reactant | 2,6-dimethylphenoxyacetamide | 13.4 g | CC1=C(OCC(=O)N)C(=CC=C1)C | C10H13NO2
reactant | sodium hydroxide | 60 g | [OH-].[Na+]
catalyst | benzyltriethyl ammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | chloroform | 182 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,6-dimethylphenoxyacetonitrile | CC1=C(OCC#N)C(=CC=C1)C | C10H11NO
